US06545008B1
Example 24: Preparation of 5-methyl-6-fluoromethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine hydrochloride
The solution of 6-hydroxymethyl-5-methyl-2-(4-fluorophenyl-amino)4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.19 g, 0.5 mmol) prepared in accordance with WO 98/43968 in dichloromethane (5 ml) and cooled to −75° C. and (diethylamino)sulfur trifluoride (0.15 ml, 2.26mmol) was dropwise added thereto. The reaction mixture was stirred for 2 hours at −75° C., further stirred for 2 hours at −45 ° C., and slowly heated to room temperature. The reaction mixture was stirred for 18 hours at room temperature, and then water was added thereto to terminate the reaction. The extracted organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting residue was subjected to silica gel column column chromatography (eluent:ethyl acetate/hexane=⅓), and then treated with ethyl ether solution saturated with hydrochloric acid to afford 72 mg (34.5%) of the titled compound.

reactant | 6-hydroxymethyl-5-methyl-2-(4-fluorophenyl-amino)4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 0.5 mmol, 0.19 g | OCC1=C(C(=NC(=N1)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C)C | C22H23FN4O
reactant | (diethylamino)sulfur trifluoride | 2.26mmol, 0.15 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | O | H2O
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-methyl-6-fluoromethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine hydrochloride | 72 mg, 34.5% | Cl.CC=1C(=NC(=NC1CF)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H22F2N4.ClH/c1-14-20(13-23)26-22(25-18-9-7-17(24)8-10-18)27-21(14)28-12-11-16-5-3-4-6-19(16)15(28)2;/h3-10,15H,11-13H2,1-2H3,(H,25,26,27);1H
